US05789430
A mixture of 3.12 g (10 mmol) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol and 45 ml of absolute tetrahydrofuran is treated at 20° C. with 8.4 ml (21 mmol) of n-butyl-lithium in hexane, and the mixture is stirred at 0° C. for 30 minutes. The reaction mixture is then cooled to -70° C., 0.32 g (10 mmol) of sulphur powder are added, and the mixture is stirred for 30 minutes at -70° C. It is heated to -10° C., and treated with ice-water and brought to a pH of 5 by adding dilute sulphuric acid. The mixture is extracted repeatedly using ethyl acetate, and the combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. In this manner, 3.2 g (93% of theory) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol are obtained in the form of a solid which, after recrystallization, melts at 138°-139° C.

reactant | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol | 10 mmol, 3.12 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1)O | C14H15Cl2N3O
reactant | n-butyl-lithium | 21 mmol, 8.4 ml | C(CCC)[Li]
reactant | sulphur | 10 mmol, 0.32 g | [S] | S
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol | 3.2 g, 93% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1S)O | C14H15Cl2N3OS
